US08377957B2
1,1′-Carbonyldiimidazole (6.53 g, 40.3 mmol) was added to a solution of 2-chloro-N4-(4-methoxybenzyl)quinoline-3,4-diamine (11.49 g, 36.62 mmol) and pyridine (75 mL) in THF (75 mL), and the reaction was heated at 80° C. overnight. An analysis by LC/MS indicated the presence of starting material, and additional 1,1′-carbonyldiimidazole (1 equivalent) was added. The reaction was stirred overnight at 80° C., and additional 1,1′-carbonyldiimidazole (1 equivalent) was added. The reaction was stirred overnight at 80° C. and allowed to cool, and the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (500 mL), and the resulting solution was washed sequentially with brine and water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide a solid. The solid was mixed with acetonitrile and isolated by filtration to provide 5.2 g of 4-chloro-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-2-ol.

reactant | 1,1′-Carbonyldiimidazole | 40.3 mmol, 6.53 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-N4-(4-methoxybenzyl)quinoline-3,4-diamine | 36.62 mmol, 11.49 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC1=CC=C(C=C1)OC | C17H16ClN3O
reactant | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,1′-carbonyldiimidazole | 1 equivalent | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1′-carbonyldiimidazole | 1 equivalent | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-chloro-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-2-ol | 5.2 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC=C(C=C2)OC)O | C18H14ClN3O2
